US08802690B2
To a solution of methyl 4-amino-5-chloro-3-nitrobenzoate (4.29 g, 18.6 mmol) in ethanol (115 mL), water (250 mL) and tetrahydrofuran (200 mL) was added sodium hydrosulfite (80 g, 391 mmol). The reaction was stirred at ambient temperature for two hours. To the reaction was added water (55 mL). After stirring for an additional hour saturated aqueous sodium bicarbonate (140 mL) was added to the reaction. The reaction mixture was filtered and the filtrate was extracted twice with ethyl acetate (200 mL each). The organic extracts were combined and washed with saturated aqueous sodium bicarbonate (100 mL) followed by saturated aqueous sodium chloride (100 mL). The organic layer was concentrated in vacuo to a final volume of 100 mL and then allowed to sit at ambient temperature overnight to give a precipitate. The mixture was filtered and dried under a stream of nitrogen to give methyl 3,4-diamino-5-chlorobenzoate (973 mg, 26%). The filtrate was concentrated in vacuo to give methyl 3,4-diamino-5-chlorobenzoate (2.45 g, 66%). 1H NMR (400 MHz, DMSO-d) 5 ppm 7.11 (d, J=1.95 Hz, 1H) 7.08 (d, J=1.95 Hz, I H) 5.44 (s, 2H) 5.08 (s, 2H) 3.70 (s, 3H).

reactant | methyl 4-amino-5-chloro-3-nitrobenzoate | 18.6 mmol, 4.29 g | NC1=C(C=C(C(=O)OC)C=C1Cl)[N+](=O)[O-] | C8H7ClN2O4
reactant | sodium hydrosulfite | 391 mmol, 80 g | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | sodium bicarbonate | 140 mL | C([O-])(O)=O.[Na+]
solvent | ethanol | 115 mL | C(C)O | C2H6O
solvent | water | 250 mL | O | H2O
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
solvent | water | 55 mL | O | H2O
product | methyl 3,4-diamino-5-chlorobenzoate | 973 mg, 26% | NC=1C=C(C(=O)OC)C=C(C1N)Cl | C8H9ClN2O2
